US07238808B2
5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid amide
The title compound was prepared from 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.5) (147 mg, 0. 5 mmol) and 5-bromo-pyridine-3-sulfonic acid amide (119 mg, 0.5 mmol) according to general procedure II. Obtained as a yellow solid (177 mg, 79%). MS (ISP) 449.9 [(M+H)+]; mp 252–254° C.

reactant | 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 5 mmol, 147 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C#C | C17H12ClN3
reactant | 5-bromo-pyridine-3-sulfonic acid amide | 0.5 mmol, 119 mg | BrC=1C=C(C=NC1)S(=O)(=O)N | C5H5BrN2O2S
product | 5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid amide | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C#CC=2C=C(C=NC2)S(=O)(=O)N | C22H16ClN5O2S
